US07538114B2
A mixture of 1-(chloro(cyclopropyl)methyl)-3-(trifluoromethyl)benzene (2.5 g, 11 mmol) and (R)-2-methylpiperazine (3.2 g, 32 mmol) in 30 mL of MeCN was heated at 90° C. overnight. The solvent was evaporated and the solid residue was submitted to column chromatography (SiO2, EtOAc to EtOAc/2M NH3 in MeOH=100:20) to give crude (2R)-1-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazine (3.15 g) which was directly used in next step.

reactant | 1-(chloro(cyclopropyl)methyl)-3-(trifluoromethyl)benzene | 11 mmol, 2.5 g | ClC(C1=CC(=CC=C1)C(F)(F)F)C1CC1 | C11H10ClF3
reactant | (R)-2-methylpiperazine | 32 mmol, 3.2 g | C[C@H]1NCCNC1 | C5H12N2
solvent | MeCN | 30 mL | CC#N | C2H3N
product | (2R)-1-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazine | 3.15 g | C1(CC1)C(N1[C@@H](CNCC1)C)C1=CC(=CC=C1)C(F)(F)F | C16H21F3N2
